US07087629B2
3-(4(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-acetoxymethyloxazolidin-2-one
3-(4-(1,2,5,6-tetrahydropyridyl)-3,5-difluorophenyl)-5(R)-acetoxymethyloxazolidin-2-one hydrochloride (14.5 g, 37.3 mM) was suspended in dry dichloromethane (300 ml) under nitrogen at 0°, and treated with pyridine (9.78 g, 0.12 M). A solution of 2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl chloride (9.59 g, 75.6 mM) in dichloromethane (100 ml) was added dropwise, and stirring continued for 3 hours, allowing the temperature to rise to ambient. Aqueous sodium bicarbonate (5%, 300 ml) was added, and stirring continued for 30 minutes. The organic phase was separated, dried (magnesium sulfate), filtered, and evaporated to dryness after the addition of toluene (20 ml). The solid residue was triturated with a mixture of diethyl ether (250 ml) and isohexane (150 ml), and solid filtered to give the title compound (17.5 g).

reactant | 3-(4-(1,2,5,6-tetrahydropyridyl)-3,5-difluorophenyl)-5(R)-acetoxymethyloxazolidin-2-one hydrochloride | 37.3 mM, 14.5 g | Cl.N1(CC=CCC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)COC(C)=O)=O)F
reactant | pyridine | 0.12 M, 9.78 g | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl chloride | 75.6 mM, 9.59 g | CC1(OC[C@H](O1)C(=O)Cl)C | C6H9ClO3
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-acetoxymethyloxazolidin-2-one | 17.5 g | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)COC(C)=O)=O)F)C | C23H26F2N2O7
